US06492403B1
b) Methyl 5-methylthio-4-(5-phenyl(1,3-oxazol-2-yl))thiophene-2-carboxylate
To a cooled (0° C.) solution of 80.1 mg (0.229 mmol) of methyl 5-methylthio-4-[N-(2-oxo-2-phenylethyl)carbamoyl]thiophene-2-carboxylate (as prepared in the previous step) in 2 mL of anhyd DMF was added 26.7 μL (0.286 mmol) of phosphorus oxychloride. After stirring for 20 h at room temperature, the mixture was concentrated in vacuo. The resulting yellow solid was recrystallized twice from MeOH to afford the title compound as a beige powder (48.8 mg, 64%). 1H-NMR (300 MHz, DMSO-d6) δ8.26 (s, 1H), 7.88 (s, 1H), 7.86 (d, 2H, J=7 Hz), 7.51 (m, 2H), 7.40 (m, 1H), 3.86 (s, 3H), and 2.79 (s, 3H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C16H13NO3S2: 332.0 (M+H). Found: 331.9.

reactant | methyl 5-methylthio-4-[N-(2-oxo-2-phenylethyl)carbamoyl]thiophene-2-carboxylate | 0.229 mmol, 80.1 mg | CSC1=C(C=C(S1)C(=O)OC)C(NCC(C1=CC=CC=C1)=O)=O | C16H15NO4S2
reactant | phosphorus oxychloride | 0.286 mmol, 26.7 μL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Methyl 5-methylthio-4-(5-phenyl(1,3-oxazol-2-yl))thiophene-2-carboxylate | 48.8 mg, 64% | CSC1=C(C=C(S1)C(=O)OC)C=1OC(=CN1)C1=CC=CC=C1 | C16H13NO3S2
